US04898941
Into 400 ml of benzene was dissolved 10 g of 2,2-bis(4-dimethylaminophenyl)propionic acid. Thereto was added 10 g of lead dioxide and the mixture was reacted at room temperature with stirring for 30 minutes. The lead compound was removed by filtration and the benzene layer was washed with 200 ml of 5% aqueous solution of sodium hydroxide. Benzene was removed by distillation at a reduced pressure. The residue was recrystallized from methanol to obtain 6.3 g (yield 74%) of 1,1-bis(4-dimethylaminophenyl)ethylene, having a melting point of 123°~123.5° C.

reactant | 2,2-bis(4-dimethylaminophenyl)propionic acid | 10 g | CN(C1=CC=C(C=C1)C(C(=O)O)(C)C1=CC=C(C=C1)N(C)C)C | C19H24N2O2
reactant | lead dioxide | 10 g | [Pb](=O)=O
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 1,1-bis(4-dimethylaminophenyl)ethylene | 6.3 g, yield 74% | CN(C1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)N(C)C)C | C18H22N2
